US03935261
A mixture of 3-hydroxy-2-(6-hydroxyhexyl)cyclopentanecarbaldehyde (8.6 g.) and hexanoylmethylene triphenylphosphorane (16 g., 0.043 mole) in dry tetrahydrofuran (100 ml.) was heated under reflux for 6 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel. Elution with a 3:2 mixture of petrol (b.p. 40°-60°C.) and ethyl acetate gave 2-(6-hydroxyhexyl)-3-(3-oxo-1-octenyl)cyclopentanol (8 g.), νmax 1660 cm-1, 1620 cm-1 (liquid film).

reactant | 3-hydroxy-2-(6-hydroxyhexyl)cyclopentanecarbaldehyde | 8.6 g | OC1C(C(CC1)C=O)CCCCCCO | C12H22O3
reactant | hexanoylmethylene triphenylphosphorane | 0.043 mole, 16 g | C(CCCCC)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27OP
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(6-hydroxyhexyl)-3-(3-oxo-1-octenyl)cyclopentanol | 8 g | OCCCCCCC1C(CCC1C=CC(CCCCC)=O)O | C19H34O3
